US05175157
3-[(N-(3-(4-Amino-3,5-dibromo-phenoxy)-propyl)-hexahydro-azepin-3-yl)-methyl]-7, 8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one-dihydrochloride
Prepared from 1.2 g (3.6 mmol) of 3-[(hexahydro-azepin-3-yl)methyl]-7,8-dimethoxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-2-one and 1.36 g (3.96 mmol) of 3-(4-amino-3,5-dibromo-phenoxy)-propyl chloride in 5 ml triethylamine analogously to Example 26.

reactant | 3-[(hexahydro-azepin-3-yl)methyl]-7,8-dimethoxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-2-one | 3.6 mmol, 1.2 g | N1CC(CCCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | C19H28N2O3
reactant | 3-(4-amino-3,5-dibromo-phenoxy)-propyl chloride | 3.96 mmol, 1.36 g | NC1=C(C=C(OCCCCl)C=C1Br)Br | C9H10Br2ClNO
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | 3-[(N-(3-(4-Amino-3,5-dibromo-phenoxy)-propyl)-hexahydro-azepin-3-yl)-methyl]-7, 8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one-dihydrochloride | Cl.Cl.NC1=C(C=C(OCCCN2CC(CCCC2)CN2CCC3=C(CC2=O)C=C(C(=C3)OC)OC)C=C1Br)Br | InChI=1S/C28H37Br2N3O4.2ClH/c1-35-25-12-20-7-10-33(27(34)14-21(20)13-26(25)36-2)18-19-6-3-4-8-32(17-19)9-5-11-37-22-15-23(29)28(31)24(30)16-22;;/h12-13,15-16,19H,3-11,14,17-18,31H2,1-2H3;2*1H
